US06762197B2
6.52 g (21.2 mmol) of 5-hydroxymethyl-2-methyl-4-(2-methyl-5-phenylbenzyl-)2,4-dihydro-3H-1,2,4-triazol-3-o ne and 14 g of active manganese dioxide were stirred for 6 hours in nitrogen atmosphere under reflux with heating in 63 ml of chloroform. The reaction solution was filtrated through celite, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography (eluant:hexane:ethyl acetate=1:1), to obtain 4.32 g (14.1 mmol) of 5-formyl-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one.

reactant | 5-hydroxymethyl-2-methyl-4-(2-methyl-5-phenylbenzyl-)2,4-dihydro-3H-1,2,4-triazol-3-o ne | 21.2 mmol, 6.52 g | OCC=1N(C(N(N1)C)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C18H19N3O2
solvent | chloroform | 63 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 14 g | [O-2].[O-2].[Mn+4]
product | 5-formyl-2-methyl-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 14.1 mmol, 4.32 g | C(=O)C=1N(C(N(N1)C)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C18H17N3O2
